US04584293
(c) 1-[2-(2-Amino-4,5-dimethoxyphenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
Here, 1-[2-(4,5-dimethoxy-2-nitro-phenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2 yl)-amino]-propane (8.5 g, 0.017 mol) is dissolved in methanol (100 ml), mixed with 10% palladium on charcoal (9.8 g) and hydrogenated for one hour at 20° C. under hydrogen pressure (5 bar). The catalyst is filtered off and the filtrate is concentrated by rotary evaporation. Yield: 7.8 g. Rf value: 0.2 (alumina, eluant: 98 parts by volume of methylene chloride+2 parts by volume of ethanol).

reactant | 1-[2-(4,5-dimethoxy-2-nitro-phenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2 yl)-amino]-propane | 0.017 mol, 8.5 g | COC1=CC(=C(C=C1OC)CC(=O)NCCCN(C1CC2=CC(=C(C=C2CC1)OC)OC)C)[N+](=O)[O-] | C26H35N3O7
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on charcoal | 9.8 g | [Pd] | Pd
product | 1-[2-(2-Amino-4,5-dimethoxyphenyl)-1-oxo-ethylamino]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | NC1=C(C=C(C(=C1)OC)OC)CC(=O)NCCCN(C1CC2=CC(=C(C=C2CC1)OC)OC)C | C26H37N3O5
